* 5-PIN LM311 VOLTAGE COMPARATOR SUBCIRCUIT
*
* CONNECTIONS:
*              1 = NON-INVERTING INPUT (+)
*              2 = INVERTING INPUT (-)
*              3 = POSITIVE POWER SUPPLY (Vcc+)
*              4 = NEGATIVE POWER SUPPLY / EMITTER GND (Vcc-)
*              5 = OPEN COLLECTOR OUTPUT
*
.SUBCKT LM311 1 2 3 4 5
  F1    9  3 V1 1
  IEE   3  7 DC 100.0E-6
  VI1  21  1 DC .45
  VI2  22  2 DC .45
  Q1    9 21  7 QIN
  Q2    8 22  7 QIN
  Q3    9  8  4 QMO
  Q4    8  8  4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=500)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=102.5E-9)
  E1   10  4  9  4  1
  V1   10 11 DC 0
  Q5    5 11  4 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=103.5E3 CJC=1E-15 TF=11.60E-12 TR=48.19E-9)
  DP    4  3 DX
  RP    3  4 6.667E3
.MODEL DX  D(IS=800.0E-18)
.ENDS LM311