* C:\Users\Lex Leung\OneDrive\Desktop\SFU Work\ENSC 425\NTSCPrject\fourthCircuit.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N005 0 PWL file=ntsc_PWL_signal.pwl
R1 0 N005 75
R17 Vsync 0 15k
R18 Vcc Vsync 10k
X§U4 0 N003 NC_01 Vcc N004 Vsync N003 Vcc NE555
X§U5 0 N013 NC_02 Vcc N015 N012 N013 Vcc NE555
R19 Vcc N012 10k
R20 N012 0 15k
C5 N015 0 10n
C6 N013 0 2.2n
C7 HDR N013 0.1µ
Q2 N013 N014 N008 0 2N3906
Q3 N008 N008 Vcc 0 2N3906
Q4 N014 N008 Vcc 0 2N3906
R21 N014 0 2.2k
C8 N012 Hsync 0.1µ
C9 0 N004 10n
Q5 N003 N002 N001 0 2N3906
Q6 N001 N001 Vcc 0 2N3906
Q7 N002 N001 Vcc 0 2N3906
R22 N002 0 6.8k
C10 N003 0 0.1µ
C11 VDR N003 0.1µ
R2 N006 N005 680
C12 N006 0 47p
R8 N009 N016 1k
R9 Vcc N016 100k
R11 N016 0 1k
R12 N010 N009 500k
Rpull Vcc N010 2k
V2 Vcc 0 12
V3 0 Vee 12
X§U1 N009 N007 Vcc 0 N010 LM311
C17 N007 N006 0.1µ
X§U8 0 N007 Vcc 0 N011 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D2 N011 N007 1N4148
R31 N007 0 10Meg
R3 N018 N010 250k
C1 N018 0 33p
R4 N017 N019 1k
R5 Vcc N019 10k
R6 N019 0 10k
R7 Vsync N017 75k
Rpull2 NC_03 Vsync 2k
X§U2 N018 N017 Vcc 0 Vsync LM311
X§U9 NC_04 NC_05 NC_06 NC_07 NC_08 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C2 N020 N021 100p
R10 N021 0 1k
X§U3 0 N022 Hsync Vcc N024 N023 N023 Vcc NE555
C3 N021 N022 1n
D1 N022 Vcc 1N4148
R13 N022 Vcc 10k
R14 Vcc N023 10k
C4 0 N023 430p
C13 0 N024 10n
.model D D
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100u
.inc LM311.sub
.lib NE555.sub
.lib UniversalOpAmp2.lib
.backanno
.end
