* C:\Users\Lex Leung\OneDrive\Desktop\SFU Work\ENSC 425\NTSCPrject\postFailurebutLum.asc
* Generated by LTspice 24.1.9 for Windows.
V1 in 0 PWL file=ntsc_lines_4_to_6.pwl.txt
R1 0 in 75
R2 N015 in 680
C12 N015 0 4.7p
R8 N022 N028 1k
R9 Vcc N028 10k
R11 N028 0 2k
R12 Csync N022 150k
Rpull Vcc Csync 2.2k
V2 Vcc 0 12
V3 0 Vee 12
X§U1 N022 N024 Vcc 0 Csync LM311
R31 N024 0 10Meg
R3 N030 Csync 2k
C1 N030 0 1n
R24 N024 N023 1k
D1 N027 N023 1N4148
C2 N023 N016 100n
X§U7 0 N023 Vcc 0 N027 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 N029 N033 2k
R5 Vcc N033 10k
R6 N033 0 10k
R7 Vsync N029 150k
Rpull1 Vcc Vsync 10k
X§U2 N030 N029 Vcc 0 Vsync LM311
X§U3 0 N039 N041 Vcc N042 N040 N040 Vcc NE555
R34 Vcc P001 5k
R35 P001 0 1k
R19 0 N023 1Meg
C5 N015 N016 33µ
Rdelay Vcc N040 680
Cdelay 0 N040 1n
C3 N042 0 10n
C4 N041 N043 47p
R10 N043 Vcc 10k
X§U5 0 N043 Hsync Vcc N046 N045 N045 Vcc NE555
Rpulse Vcc N045 2.5k
Cpulse 0 N045 1n
C7 N046 0 10n
R13 N039 0 10k
C6 N039 Csync 1n
R17 Vcc N039 22k
X§U8 0 N001 N003 Vcc P002 N002 N002 Vcc NE555
R18 Vcc N001 10k
C8 0 P002 10n
R21 Vcc N002 12k
C11 0 N002 100n
Q3 N004 N006 0 0 NPN
R27 N006 N005 4.7k
X§U9 0 N018 N019 Vcc N021 N018 N018 Vcc NE555
C10 0 N021 1n
C13 N018 0 1n
Q4 N018 N017 Vcc 0 PNP
D4 Vcc N017 D
R39 N018 0 680k
R41 N025 Vsync 1k
R42 N017 0 1k
Q5 N018 N025 0 0 PNP
D5 N026 N020 1N4148
C14 N020 N018 1n
X§U12 0 N020 Vcc 0 N026 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R43 0 N020 100k
X§U13 0 N032 N034 Vcc N036 N032 N032 Vcc NE555
C15 0 N036 1n
C16 N032 0 500p
Q6 N032 N031 Vcc 0 PNP
D6 Vcc N031 D
R44 N032 P003 1Meg
R45 P003 0 2.7k
R46 N037 Hsync 1k
R47 N031 0 500
Q7 N032 N037 0 0 PNP
D7 N038 N035 1N4148
C17 N035 N032 100n
X§U14 0 N035 Vcc 0 N038 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R48 Vcc N035 1Meg
C9 N011 N015 10µ
D2 N011 N014 D
R14 N014 0 1k
R15 N014 Vee 41k
C18 N014 0 0.1µ
R16 N012 N011 10k
R20 N013 0 1k
D3 N012 N013 D
M1 0 N010 N012 N012 NMOS
R28 N010 N007 10k
X§U4 N009 N007 Vcc Vee N008 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R29 N008 N007 50k
R30 Vcc N009 10k
R32 0 N009 10k
R33 Lum N008 10k
M2 P004 Lum Vcc Vcc NMOS
R36 0 P004 4.7k
.model D D
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 400u
.inc LM311.sub
.inc LM311.sub
* if don't want to use second power source, set 1:5 ratio on + and ground vee
* broken IC
* terrible clamp
* test between LF356 and TL052
* redundant?
* redundant?
* test if Vee or gnd
* Bypass capacitor, so only falling edge is seen
.option noopiter
* add buffer
* test if Vee or 0
* potential issue, originally 470p
* affects the slope and rate of charge
* affects the frequency and early noise
* affects frequency and early noise
* pot 50k contrast
* pot 10k brightness
.lib NE555.sub
.lib UniversalOpAmp2.lib
.backanno
.end
