* C:\Users\Lex Leung\OneDrive\Desktop\SFU Work\ENSC 425\NTSCPrject\postFailurebutWOrse.asc
* Generated by LTspice 24.1.9 for Windows.
V1 in 0 PWL file=ntsc_lines_4_to_6.pwl.txt
R1 0 in 75
R2 N018 in 680
C12 N018 0 4.7p
R8 N025 N031 1k
R9 Vcc N031 10k
R11 N031 0 2k
R12 Csync N025 150k
Rpull Vcc Csync 2.2k
V2 Vcc 0 12
V3 0 Vee 12
X§U1 N025 N027 Vcc 0 Csync LM311
R31 N027 0 10Meg
R3 N033 Csync 2k
C1 N033 0 1n
R24 N027 N026 1k
D1 N030 N026 1N4148
C2 N026 N019 100n
X§U7 0 N026 Vcc 0 N030 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R4 N032 N036 2k
R5 Vcc N036 10k
R6 N036 0 10k
R7 Vsync N032 150k
Rpull1 Vcc Vsync 50k
X§U2 N033 N032 Vcc 0 Vsync LM311
X§U3 0 N042 N044 Vcc N045 N043 N043 Vcc NE555
R34 Vcc P001 5k
R35 P001 0 1k
R19 0 N026 1Meg
C5 N018 N019 33µ
Rdelay Vcc N043 6k
Cdelay 0 N043 500p
C3 N045 0 10n
C4 N044 N046 100p
R10 N046 Vcc 10k
X§U5 0 N046 Hsync Vcc N049 N048 N048 Vcc NE555
Rpulse Vcc N048 2.2k
Cpulse 0 N048 1n
C7 N049 0 10n
R13 N042 0 10k
C6 N042 Csync 470p
R17 Vcc N042 22k
X§U8 0 N001 N003 Vcc P002 N002 N002 Vcc NE555
R18 Vcc N001 10k
C8 0 P002 10n
R21 Vcc N002 12k
C11 0 N002 100n
Q1 N005 N007 0 0 NPN
Q2 N005 P003 0 0 NPN
R22 Vcc N005 1k
R23 P003 Vsync 4.7k
R25 Hsync N007 4.7k
Q3 N004 N006 0 0 NPN
R27 N006 N005 4.7k
V4 P004 0 PWL file=ntsc_PWL_signal.pwl
X§U9 0 N021 N022 Vcc N024 N021 N021 Vcc NE555
C10 0 N024 1n
C13 N021 0 1n
Q4 N021 N020 Vcc 0 PNP
D4 Vcc N020 D
R39 N021 P005 850k
R40 P005 0 2.7k
R41 N028 Vsync 1k
R42 N020 0 1k
Q5 N021 N028 0 0 PNP
D5 N029 N023 1N4148
C14 N023 N021 1n
X§U12 0 N023 Vcc 0 N029 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R43 0 N023 100k
X§U13 0 N035 N037 Vcc N039 N035 N035 Vcc NE555
C15 0 N039 1n
C16 N035 0 500p
Q6 N035 N034 Vcc 0 PNP
D6 Vcc N034 D
R44 N035 P006 1Meg
R45 P006 0 2.7k
R46 N040 Hsync 1k
R47 N034 0 500
Q7 N035 N040 0 0 PNP
D7 N041 N038 1N4148
C17 N038 N035 100n
X§U14 0 N038 Vcc 0 N041 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R48 Vcc N038 1Meg
R14 N008 N016 1k
D8 N016 N015 1N4148
C18 N015 0 100n
X§U11 0 N015 Vcc 0 N016 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C19 N008 P004 1n
X§U15 N008 N009 Vcc 0 N014 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
D9 N014 N010 1N4148
R20 N009 0 1k
R37 N010 N009 10k
C20 N010 0 47µ
R38 N010 0 1k
R49 N012 N010 1k
X§U16 N017 N012 Vcc 0 N013 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R50 N013 N012 20k
R51 Vcc N013 100k
R52 N017 Vcc 60k
R53 0 N017 1k
.model D D
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 400u
.inc LM311.sub
.inc LM311.sub
* if don't want to use second power source, set 1:5 ratio on + and ground vee
* broken IC
* terrible clamp
* test between LF356 and TL052
* redundant?
* redundant?
* test if Vee or gnd
* Bypass capacitor, so only falling edge is seen
.option noopiter
* add buffer
* test if Vee or 0
* potential issue, originally 470p
* affects the slope and rate of charge
* affects the frequency and early noise
* affects frequency and early noise
.lib NE555.sub
.lib UniversalOpAmp2.lib
.backanno
.end
