* C:\Users\Lex Leung\OneDrive\Desktop\SFU Work\ENSC 425\NTSCPrject\secondCircuit.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N005 0 PWL file=ntsc_PWL_signal.pwl
R1 0 N005 75
R14 N019 N009 10k
C4 Hsync N020 1n
R16 Hsync 0 680
R17 Vsync 0 15k
R18 Vcc Vsync 10k
X§U4 0 N003 NC_01 Vcc N004 Vsync N003 Vcc NE555
X§U5 0 N014 NC_02 Vcc N016 N013 N014 Vcc NE555
R19 Vcc N013 10k
R20 N013 0 15k
C5 N016 0 10n
C6 N014 0 2.2n
C7 HDR N014 0.1µ
Q2 N014 N015 N007 0 2N3906
Q3 N007 N007 Vcc 0 2N3906
Q4 N015 N007 Vcc 0 2N3906
R21 N015 0 2.2k
C8 N013 Hsync 0.1µ
C9 0 N004 10n
Q5 N003 N002 N001 0 2N3906
Q6 N001 N001 Vcc 0 2N3906
Q7 N002 N001 Vcc 0 2N3906
R22 N002 0 6.8k
C10 N003 0 0.1µ
C11 VDR N003 0.1µ
X§U6 N021 N019 Vcc 0 N020 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R23 N021 Vcc 38k
R24 0 N021 1k
R10 N020 N019 10k
R2 N006 N005 680
C12 N006 0 47p
C2 N006 N012 33µ
R5 N012 N011 1k
D1 N011 N010 1N4148
C15 N010 0 100n
X§U2 0 N010 Vcc Vee N011 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R6 Vcc N017 100k
R7 N017 0 240k
X§U7 N008 N012 Vcc 0 N009 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R8 N008 N018 1k
R9 Vee N018 100k
R11 N018 0 1k
R12 N009 N008 75k
Rpull Vcc N009 2k
V2 Vcc 0 12
V3 0 Vee 12
R3 N012 0 10Meg
R4 Vsync N020 10k
C1 Vsync 0 33n
.model D D
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100u
* Inverter
.lib NE555.sub
.lib UniversalOpAmp2.lib
.backanno
.end
