* C:\Users\Lex Leung\OneDrive\Desktop\SFU Work\ENSC 425\NTSCPrject\seventhCircuit(Lum WIP, HSync WIP).asc
* Generated by LTspice 24.1.9 for Windows.
V1 in 0 PWL file=ntsc_PWL_signal.pwl
R1 0 in 75
X§U5 0 N017 NC_01 Vcc N019 N016 N017 Vcc NE555
R19 Vcc N016 10k
R20 N016 0 15k
C5 N019 0 10n
C6 N017 0 2.2n
C7 N020 N017 0.1µ
Q2 N017 N018 N012 0 2N3906
Q3 N012 N012 Vcc 0 2N3906
Q4 N018 N012 Vcc 0 2N3906
R21 N018 0 2.2k
C8 N016 Hsync 0.1µ
R2 N006 in 680
C12 N006 0 47p
R8 N013 N021 1k
R9 Vcc N021 100k
R11 N021 0 1k
R12 Csync N013 500k
Rpull Vcc Csync 2k
V2 Vcc 0 12
V3 0 Vee 12
X§U1 N013 N011 Vcc 0 Csync LM311
R31 N011 0 10Meg
R3 N023 Csync 10k
C1 N023 0 33p
R24 N011 N015 1k
D1 N015 N014 1N4148
C2 N014 0 100n
X§U7 0 N014 Vcc 0 N015 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C16 N006 N011 33µ
R4 N022 N026 1k
R5 Vcc N026 100k
R6 N026 0 1k
R7 Vsync N022 50k
Rpull1 Vcc Vsync 100k
X§U2 N023 N022 Vcc 0 Vsync LM311
R28 Vsync 0 15k
R29 Vcc Vsync 10k
X§U9 0 N027 NC_02 Vcc N029 Vsync N027 Vcc NE555
C18 0 N029 10n
Q8 N027 N025 N024 0 2N3906
Q9 N024 N024 Vcc 0 2N3906
Q10 N025 N024 Vcc 0 2N3906
R30 N025 0 10k
C19 N027 0 33n
C20 VDR N027 1µ
X§U3 0 N030 N034 Vcc N035 N030 N030 Vcc NE555
C3 0 N030 1n
R10 Vcc N030 1k
C4 0 N035 1µ
R13 P001 N034 10k
Q5 Hsync P001 0 0 NPN
R14 N037 Hsync 1k
R23 Vcc HDR 10k
Q6 HDR N020 0 0 PNP
C9 N005 N004 0.47n
R15 N005 0 4.7k
R16 Vcc N005 10k
Q1 N001 N005 P002 0 2N3904
R25 Vcc N001 220
C10 Lum N001 0.1µ
R26 P002 0 10k
D2 Lum N002 1N4148
R27 0 N003 2k
R33 N003 Vcc 10k
R34 Vcc P003 5k
R35 P003 0 1k
X§U6 N003 Lum Vcc Vee N002 level2 Avol=3500 GBW=300Meg Slew=1400Meg Ilimit=60m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C11 N007 N008 0.1µ
X§U8 N010 N007 NC_03 NC_04 N009 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R36 Vcc12 N010 10k
R37 N010 0 4.7k
D3 N009 N007 1N4148
R38 N007 0 10Meg
R39 P004 Csync 1k
Q7 Vcc P004 N031 0 PNP
R40 N031 0 25k
R41 N032 N031 680
C13 N033 N032 47µ
R42 N033 0 1k
R43 Vcc N033 100k
Q11 N030 N033 0 0 PNP
R44 Vcc N030 100k
R18 Vcc N037 5k
R17 N037 0 1k
R22 Vsync N028 2k
D4 N028 0 1N4148
X§U4 0 0 Vcc 0 N028 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
.model D D
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 300u
.inc LM311.sub
.inc LM311.sub
* pot?
.include LF356.mod
* if don't want to use second power source, set 1:5 ratio on + and ground vee
.lib NE555.sub
.lib UniversalOpAmp2.lib
.backanno
.end
