* C:\Users\Lex Leung\OneDrive\Desktop\SFU Work\ENSC 425\NTSCPrject\sixthCircuit(PostMidnight1).asc
* Generated by LTspice 24.1.9 for Windows.
V1 N005 0 PWL file=ntsc_PWL_signal.pwl
R1 0 N005 75
R17 Vsync 0 1k
R18 Vcc Vsync 10k
X§U4 0 Vsync NC_01 Vcc N004 N003 N003 Vcc NE555
X§U5 0 N014 NC_02 Vcc N016 N013 N014 Vcc NE555
R19 Vcc N013 10k
R20 N013 0 15k
C5 N016 0 10n
C6 N014 0 2.2n
C7 HDR N014 0.1µ
Q2 N014 N015 N008 0 2N3906
Q3 N008 N008 Vcc 0 2N3906
Q4 N015 N008 Vcc 0 2N3906
R21 N015 0 2.2k
C8 N013 Hsync 0.1µ
C9 0 N004 1µ
Q5 N003 N002 N001 0 2N3906
Q6 N001 N001 Vcc 0 2N3906
Q7 N002 N001 Vcc 0 2N3906
R22 N002 0 6.8k
C10 N003 0 10n
C11 VDR N003 0.1n
R2 N006 N005 680
C12 N006 0 4.7p
R8 N009 N017 1k
R9 Vee N017 100k
R11 N017 0 1k
R12 N010 N009 500k
Rpull Vcc N010 2k
V2 Vcc 0 12
V3 0 Vee 12
X§U1 N009 N007 Vcc 0 N010 LM311
R31 N007 0 10Meg
R3 N019 N010 10k
C1 N019 0 4.7p
X§U3 0 N023 N026 Vcc N027 N024 N024 Vcc NE555
X§U6 0 N028 Hsync N030 P001 N029 N029 Vcc NE555
C4 0 N027 1µ
R13 Vcc N024 250k
C13 0 N024 47p
C14 0 P001 1µ
R14 Vcc N029 250k
C15 0 N029 47p
R10 N023 0 1Meg
C3 N026 N028 10n
R23 N028 Vcc 22k
R24 N007 N012 1k
D1 N012 N011 1N4148
C2 N011 0 100n
X§U7 0 N011 Vcc Vee N012 level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
C16 N006 N007 33µ
R4 N018 N022 1k
R5 Vcc N022 100k
R6 N022 0 1k
R7 Vsync N018 75k
Rpull1 Vcc Vsync 2k
X§U2 N019 N018 Vcc 0 Vsync LM311
X§U8 N021 N020 Vcc 0 Vramp level2 Avol=1Meg GBW=10Meg Slew=10Meg Ilimit=25m Rail=0 Vos=0 En=0 Enk=0 In=0 Ink=0 Rin=500Meg
R15 N021 P002 750k
R16 Vramp N021 750k
R25 Vramp N020 10Meg
R26 N020 0 10Meg
R27 Vsync P003 10k
Q1 N021 P003 N025 0 2N3904
C17 N021 N025 1n
V4 P002 0 400m
.model D D
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\Lex Leung\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 100u
.inc LM311.sub
.inc LM311.sub
.lib NE555.sub
.lib UniversalOpAmp2.lib
.backanno
.end
